US04276306
26.3 g (0.1 mol) of 4-chlorobenzyl-phosphonic acid diethyl ester were dissolved in 400 ml of absolute tetrahydrofuran and the solution was cooled to -70° C. 0.11 mol of n-butyl-lithium (as a 15% strength solution in hexane) were added dropwise under a counter-current of nitrogen and while stirring well, and the reaction mixture was then stirred for a further 15 minutes at -70° C. Thereafter, 15.4 g (0.1 mol) of carbon tetrachloride were added dropwise at -70° C., still under nitrogen; in the course thereof, the reaction mixture assumed a red-brown color. After stirring for a further 15 minutes, 18.6 g (0.1 mol) of 2,2-dimethyl-3-formyl-cyclopropanecarboxylic acid ethyl ester were added at -65° C. The reaction mixture was then allowed to come to room temperature and was stirred for a further 3 hours at 25° C. The reaction batch was then poured into 2 liters of water and extracted with 600 ml of ether. The ether phase was dried over sodium sulphate, the solvent was stripped off in vacuo and the oily residue was distilled at 150°-155° C./2 mm Hg. 2,2-Dimethyl-3-(2-chloro-2-p-chlorophenyl-vinyl)-cyclopropanecarboxylic acid ethyl ester was obtained in 54.3% yield.

reactant | 4-chlorobenzyl-phosphonic acid diethyl ester | 0.1 mol, 26.3 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)Cl | C11H16ClO3P
reactant | n-butyl-lithium | 0.11 mol | C(CCC)[Li]
reactant | carbon tetrachloride | 0.1 mol, 15.4 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 2,2-dimethyl-3-formyl-cyclopropanecarboxylic acid ethyl ester | 0.1 mol, 18.6 g | C(C)OC(=O)C1C(C1C=O)(C)C | C9H14O3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 2 liters | O | H2O
product | 2,2-Dimethyl-3-(2-chloro-2-p-chlorophenyl-vinyl)-cyclopropanecarboxylic acid ethyl ester | 54.3% yield | C(C)OC(=O)C1C(C1C=C(C1=CC=C(C=C1)Cl)Cl)(C)C | C16H18Cl2O2
